US06451740B2
N-[4-chloro-2-fluoro-5-(2-hydroxyphenoxy)phenyl]acetamide is dissolved in N,N-dimethylformamide, then, potassium carbonate is added and the mixture is stirred at room temperature. Then, ethyl bromoacetate is added at room temperature. The mixture is stirred under the same temperature, poured into water, extracted with ethyl acetate, the organic layer is washed with dilute hydrochloric acid, washed with water, dried over magnesium sulfate and concentrated, and the resulted crystal is washed with t-butyl methyl ether to obtain ethyl [2-(5-acetylamino-2-chloro-4-fluorophenoxy)phenoxy]acetate.

reactant | N-[4-chloro-2-fluoro-5-(2-hydroxyphenoxy)phenyl]acetamide | ClC1=CC(=C(C=C1OC1=C(C=CC=C1)O)NC(C)=O)F | C14H11ClFNO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl [2-(5-acetylamino-2-chloro-4-fluorophenoxy)phenoxy]acetate | C(C)(=O)NC=1C(=CC(=C(OC2=C(OCC(=O)OCC)C=CC=C2)C1)Cl)F | C18H17ClFNO5
